US07915411B2
3-Benzyloxy-phenylamine
3-Nitro-phenol was reacted with bromomethyl-benzene according to the procedure from Example 199A substituting bromomethyl-benzene for 1-bromomethyl-3-fluoro-benzene then reduced according to the procedure from Example 199B to provide the title compound.

reactant | 3-Nitro-phenol | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | bromomethyl-benzene | BrCC1=CC=CC=C1 | C7H7Br
reactant | 1-bromomethyl-3-fluoro-benzene | BrCC1=CC(=CC=C1)F | C7H6BrF
product | 3-Benzyloxy-phenylamine | C(C1=CC=CC=C1)OC=1C=C(C=CC1)N | C13H13NO
